Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Vancomycin Analogues / Percocet / Vicodin / Tramadol
 
Attending: ___.
 
Chief Complaint:
Hydronephrosis.
 
Major Surgical or Invasive Procedure:
___: Nephroureteral stent placement with 
nephroureterostomy tube.
 
History of Present Illness:
___ with Alport's syndrome s/p three renal transplants (most 
recent in ___ who has had a ureteral stricture of the 
transplanted kidney in ___ that was treated with 
percutaneous nephrostomy tube and multiple balloon dilatations 
over almost 7 months, now returns to ___ after routine labs 
earlier in the week revealed an elevated Cr prompting a renal 
ultrasound consistent with hydronephrosis.

He otherwise feels well, denies any complaints, denies pain in 
his flank or abdomen, change in quality or quantity of urine, 
any other symptoms.
 
Past Medical History:
Ureteral hydronephrosis ___ ?secondary to involvement of 
ureter with right inguinal hernia - treated with stenting, 
several balloon dilatations and eventual removal of stent; ESRD 
___ Alport syndrome; HTN;  Hypercholesterolemia; Hodgkin's 
lymphoma in the neck s/p radiation therapy.

Past Surgical History:
Arteriovenous fistulae *2 none functioning now. 3 renal 
transplants: LRRT in ___ CRT in ___ which functioned until 
___,  Last renal transplant in ___.
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
Vitals: 97.1  97.1 74  137/92  18  97RA
Physical Exam:
NAD, AAOx3
RRR
CTA
Abdomen soft, NTND, skin over graft kidney is intact, no 
cellulitis or tenderness, right inguinal hernia, reducible
Ext no edema
 
Pertinent Results:
___ 11:50AM BLOOD WBC-8.5 RBC-4.35* Hgb-13.8* Hct-41.1 
MCV-95 MCH-31.8 MCHC-33.5 RDW-14.9 Plt ___
___ 06:00AM BLOOD ___ PTT-22.1 ___
___ 11:50AM BLOOD UreaN-35* Creat-2.1* Na-140 K-4.7 Cl-102 
HCO3-22 AnGap-21*
___ 06:00AM BLOOD UreaN-36* Creat-2.2*
___ 05:50AM BLOOD UreaN-37* Creat-2.1*

___ Transplant kidney ultrasound:
1. Severe hydronephrosis; questionably worsening from ___ 
and definitely worse than in ___. 
2. Patent main renal vein. 
3. Appropriate renal artery waveforms with intrarenal resistive 
indices ranging from 0.58-0.8. 

___ BK VIRUS BY PCR, BLOOD: pending at time of discharge
 
Brief Hospital Course:
On ___, the patient was admitted to the transplant surgery 
service.  On ___, he underwent ureteral stent placement 
and tube nephroureterostomy of the transplanted kidney.  After 
the procedure, the tube remained patent.  After the tube was 
capped, he continued to void without problems.  Renal function 
on blood tests remained stable.  Thus, on ___, he was 
discharged home in good condition, to return for bloodwork 
within a week.  BK viral load was drawn and results are pending 
at time of discharge.
 
Medications on Admission:
Prednisone 5' Immuran 150' Cardizem 240' Zetia 10', prilosec 
20', Fosamax 70 wkly, cyclosporine 100', hydralazine 25'.
 
Discharge Medications:
1. prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. azathioprine 50 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
3. diltiazem HCl 240 mg Capsule, Extended Release Sig: One (1) 
Capsule, Extended Release PO DAILY (Daily).  
4. ezetimibe 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
6. alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week.  

7. cyclosporine 100 mg Capsule Sig: One (1) Capsule PO Q24H 
(every 24 hours).  
8. hydralazine 25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. acetaminophen 325 mg Tablet Sig: ___ Tablets PO every four 
(4) hours as needed for pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hydronephrosis
Ureteral stricture.
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the transplant surgery service for 
hydronephrosis and ureteral stricture.
 
Please call your doctor or go to the emergency department if:
*You experience new chest pain, pressure, squeezing or 
tightness.
*You develop new or worsening cough, shortness of breath, or 
wheeze.
*You are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons.  Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience an unusual discharge.
*Your pain is not improving within 12 hours or is not under 
control within 24 hours.
*Your pain worsens or changes location.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*You develop any concerning symptoms.

General Discharge Instructions:
Please resume all regular home medications, unless specifically 
advised not to take a particular medication.  Please take any 
new medications as prescribed.
Please take the prescribed analgesic medications as needed.  You 
may not drive or heavy machinery while taking narcotic analgesic 
medications.  You may also take acetaminophen (Tylenol) as 
directed, but do not exceed 4000 mg in one day.
Please get plenty of rest, continue to walk several times per 
day, and drink adequate amounts of fluids.  Please follow-up 
with your primary care physician.

General Drain Care:
*Please look at the drain site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warmth, and fever).
*Keep the drain capped for now.  Your transplant doctors ___ 
___ if the drain should be connected to a collection bag or 
container.
*If the drain is connected to a collection container, record the 
color, consistency, and amount of fluid in the drain.  Call the 
surgeon, nurse practitioner, or ___ nurse if the amount 
increases significantly or changes in character.
*You may shower and wash the drain site gently with warm, soapy 
water.  You may also wash with half strength hydrogen peroxide 
followed by saline rinse.
*Keep the insertion site clean and dry otherwise.  Place a drain 
sponge for cleanliness.
*Avoid swimming, baths, and hot tubs.  Do not submerge yourself 
in water.
*Attach the drain securely to your body to prevent pulling or 
dislocation.
 
Followup Instructions:
___